US04331666
3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer)
To a stirred solution of 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer), (0.456 g, 0.001 mole) and NaHCO3 (0.143 g, 0.0017 mole) in water (10 ml), 8-amino-6-mercapto-tetrazolo[1,5-b]pyridazine (0.118 g, 0.0007 mole) was added. A slow stream of nitrogen was passed through the solution, and the mixture was heated at 50° C. for 12 hours, while keeping the pH at 6.8. After cooling, the solution was acidified with 10% HCl, the precipitate collected by filtration, washed with water and then with ethanol. There was thus obtained 0.215 g of compound (2) which was shown by NMR, TLC and IR, to be identical to the product described in Example 1, apart a minor contaminant of the anti-isomer. By using the same method, the following compounds were prepared:

reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.001 mole, 0.456 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | NaHCO3 | 0.0017 mole, 0.143 g | C(=O)(O)[O-].[Na+]
reactant | 8-amino-6-mercapto-tetrazolo[1,5-b]pyridazine | 0.0007 mole, 0.118 g | NC=1C=2N(N=C(C1)S)N=NN2 | C4H4N6S
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)-thiomethyl]-7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(=NOC)C=3N=C(SC3)N)=O)=O)N=NN2 | C18H17N11O5S3
